US07423036B2
a) 4-methoxy-benzoic acid N′-(1-imino-ethyl)-hydrazide
4.6 g (0.20 mol) sodium in 200 mL ethanol are combined at ambient temperature with a solution of 25 g (0.20 mol) ethyl acetimidate hydrochloride in 200 mL ethanol. The sodium chloride precipitated is suction filtered and 33.2 g (0.20 mol) 4-methoxybenzoic acid hydrazide are added to the filtrate. The reaction mixture is stirred overnight at ambient temperature and then cooled. The precipitate formed is separated off and washed with ethanol and diethyl ether. Yield: 33.6 g (81%); melting range=179-181° C.

reactant | sodium | 0.20 mol, 4.6 g | [Na] | Na
reactant | ethyl acetimidate hydrochloride | 0.20 mol, 25 g | Cl.C(C)(OCC)=N
reactant | 4-methoxybenzoic acid hydrazide | 0.20 mol, 33.2 g | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-methoxy-benzoic acid N′-(1-imino-ethyl)-hydrazide | N=C(C)NNC(C1=CC=C(C=C1)OC)=O | C10H13N3O2
